US08664401B2
Step D: trans-4-[(4-bromophenoxy)(difluoro)methyl]cyclohexanol
To a stirred solution of 4-[(4-bromo-phenoxy)-difluoro-methyl]-cyclohexanone (1050 mg, 3.290 mmoles) in ethanol (16.4 mL, 0.2M) was added NaBH4 (249 mg, 6.58 mmoles) 0° C. The solution was stirred at 0° C. for 20 minutes and then warmed to room temperature for 20 minutes. The reaction was quenched with 1 N HCl to a pH of ˜7, and extracted three times with ethyl acetate. The organics where combined, dried over magnesium sulfate, filtered and concentrated. Cis/trans isomers were then separated by chiral purification. Isolated 260 mg of trans isomer (24%). 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.39 (s, 2H) 1.51-1.65 (m, 2H) 1.83-1.96 (m, 2H) 2.01-2.21 (m, 2H) 2.38-2.47 (m, 1H) 7.03-7.14 (m, 2H) 7.41-7.58 (m, 2H)

reactant | 4-[(4-bromo-phenoxy)-difluoro-methyl]-cyclohexanone | 3.290 mmoles, 1050 mg | BrC1=CC=C(OC(C2CCC(CC2)=O)(F)F)C=C1 | C13H13BrF2O2
reactant | NaBH4 | 6.58 mmoles, 249 mg | [BH4-].[Na+]
solvent | ethanol | 0.2M, 16.4 mL | C(C)O | C2H6O
product | trans-4-[(4-bromophenoxy)(difluoro)methyl]cyclohexanol | BrC1=CC=C(OC([C@@H]2CC[C@H](CC2)O)(F)F)C=C1 | C13H15BrF2O2
